Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
right sided numbness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo ___ speaking F w/HTN, HLD, CVA ___ years ago (right
hemiplegia with residual right facial droop), and CAD presenting
with 5 days of headache and around 3 days of blurry vision in
right eye and right sided sensory changes. 

Patient is a poor and tangential historian. Of note, her history
changes within the exam and between providers.

5 days ago patient began having a throbbing headache, feels
"inside" but also on right temporal area. It was intermittent at
first, worse with sitting up and exertion. 3 days ago HA became
constant. She denies vertigo but endorses feeling unsteady on 
her
feet, she denies N/V, photo/phonophobia. She took some Tylenol
which minimally helped. She doe not typically have headaches and
does not have migraines. She does note HA tends to improve after
she takes her BP medications. Her BP has been 150-170s on home
readings. PCP had adjusted her antihypertensive medications from
combined HCTZ/losartan (unknown dosing) to 2 separate pills. She
was also about to start amlodipine 5 mg daily.

Around 3 days ago she began to have blurry vision of her right
eye as well as numbness in her right face. She doesn't know 
exact
onset. She believes she is also having intermittent numbness in
her right arm and leg for the past 3 days as well. She notes
increased drooping from right side of mouth. 

Prior stroke was around ___ years ago. Resulted in right
hemiplegia. Still has mild right facial droop. Notes she is
slower to respond since the stroke. She takes an ASA 81 mg daily
and atorvastatin 40 mg qhs.

Of note, recent hospital admission ___ for asymptomatic
bradycardia (HR in ___ thought to be secondary to increased
vagal tone as patient coughing frequently. Discharged on
ziopatch. She was having chest pain at this time thought 
unlikely
to be cardiac, and more likely secondary to GERD.

ROS: 
On neurological review of systems, the patient denies confusion,
difficulties producing or comprehending speech,  diplopia,
dysarthria, dysphagia, vertigo, tinnitus or hearing difficulty.
Denies focal weakness. No bowel or bladder incontinence or
retention. 

 
Past Medical History:
HTN
HLD
T2DM
CAD
bradycardia
CVA w/residual right facial droop
GERD
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death. 
 
Physical Exam:
On admission:General: Awake, cooperative, NAD
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Extremities: No ___ edema
Skin: No rashes or lesions noted

Neurologic: ** exam limited as no in person interpreter 
available
**
-Mental Status: Alert, oriented x 3. Able to relate history w/
difficulty. Often does not answer question being asked,
tangential. Language is fluent. Normal prosody per family. No
dysarthria per family. Able to follow both midline and
appendicular commands.  There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
unable to test-- need interpreter or arrows on Snellen chart. 
V: Facial sensation intact to light touch.
VII: right V1-V3 50% to light touch and pinprick, does not split
midline. ___ eyebrows decreased elevation. Right facial droop
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk and tone throughout. Slight right pronator
drift. No adventitious movements, such as tremor or asterixis
noted.

  [___]

L    5    5    5    5    5    5   5    5    5   5    5    5

R    5-   5    5    5    5    5   5    5    5   5    5    5

-Sensory: 
Right arm and leg decreased to pinprick and light touch, unable
to further quantify. No extinction to DSS. 

-Reflexes:
  [Bic] [___] [Pat] [Ach]
L   1     1     0     0
R   1     1     0     0 
Plantar response was flexor bilaterally.
-Coordination: No intention tremor. No dysmetria on FNF
bilaterally.

-Gait: Good initiation. Wide based and cautious. States she 
feels
unsteady walking as her right leg feels weaker than normal.

At discharge

Neurologic: 
-Mental Status: Alert, oriented x 3. Able to relate history w/
difficulty. Language is fluent. Normal prosody per family. No
dysarthria per family and interpreter. Able to follow both 
midline and
appendicular commands.  There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ each eye with glasses on Snellen chart. 
V: Facial sensation decreased on right compared to left
VII:  ___ eyebrows decreased elevation. Right facial droop
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk and tone throughout. Slight right pronator
drift. No adventitious movements, such as tremor or asterixis
noted.

  [___]

L    5    5    5    5    5    5   5    5    5   5    5    5

R    5-   5    5    5    5    5   5    5    5   5    5    5

-Sensory: 
Right arm and leg decreased to pinprick and light touch, unable
to further quantify. No extinction to DSS. 

-Reflexes: symmetric bilaterally
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. No dysmetria on FNF
bilaterally.

-Gait: Good initiation. Wide based and cautious. 

 
Pertinent Results:
___ 06:20AM BLOOD WBC-7.8 RBC-4.36 Hgb-12.8 Hct-39.5 MCV-91 
MCH-29.4 MCHC-32.4 RDW-12.5 RDWSD-41.4 Plt ___
___ 06:20AM BLOOD Glucose-111* UreaN-22* Creat-0.7 Na-144 
K-3.8 Cl-103 HCO3-28 AnGap-13
___ 03:58PM BLOOD ALT-16 AST-21 CK(CPK)-105 AlkPhos-68 
TotBili-0.4
___ 06:20AM BLOOD Calcium-8.8 Phos-3.5 Mg-1.8
___ 03:58PM BLOOD %HbA1c-6.2* eAG-131*
___ 03:58PM BLOOD Triglyc-113 HDL-45 CHOL/HD-3.0 LDLcalc-66

MRI brain:No acute intracranial abnormality, no definite 
evidence of acute infarct.

CTA 1. No acute hemorrhage.
2. No CT evidence for an acute major vascular territorial 
infarction. 
Ill-defined hypodensities within left greater than right 
subcortical and deep
white matter of the cerebral hemispheres are unchanged compared 
to the CT from
approximately 10 hours prior, most likely secondary to chronic 
small vessel
ischemic disease in this age group.  However, MRI would be more 
sensitive for
an acute infarction, if clinically warranted.
3. Multiple foci of irregularity and mild narrowing involving 
the M2 and M3
branches bilaterally, statistically likely secondary to 
atherosclerosis in
this age group.
4. Unremarkable neck CTA.
5. 3 mm pulmonary nodule in the apical left upper lobe.
6. Periapical lucency ___ 11.  Please correlate dental exam 
regarding any
active inflammation.
7. Apparent fullness and possible heterogenous enhancement of 
bilateral
palatine tonsils.  Recommend outpatient evaluation by ENT, if 
not recently
performed.
 
Brief Hospital Course:
___ yo ___ speaking F w/HTN, HLD, CVA ___ years ago (right 
hemiplegia with residual right facial droop), and CAD presenting 
with 5 days of headache and around 3 days of blurry vision in 
right eye, increased right facial droop and right sided sensory 
changes. This is occurring in setting of recent elevated BP in 
the setting of medication adjustment. On presentation SBP 
170s-190s. HA is a throbbing sensation, primarily right side. 
NIHSS 3. Exam noted for decreased ___ eyebrow raising, right 
facial droop (more pronounced than baseline) and right face arm 
and leg decreased sensation. She has 5- right delt and right 
pronation but otherwise full strength. She feels unsteady when 
walking and has somewhat wide based gait. CTH reveals what 
appears to be calcification of left vert and old left lacunar 
infarct.

She was admitted for further workup. MRI of the brain was 
obtained which did not show any evidence of new stroke. Suspect 
her symptoms are due to HTN urgency, her antihypertensive were 
resumed- HCTZ 12.5 mg daily, losartan 100 mg daily, Amlodipine 5 
mg daily. Her headache and neck pain improved with Ketorolac and 
she is being discharged home on Naproxen BID prn for 2 days. Her 
home Aspirin and atorvastatin were continued as previous.

Transitional issues
1. Monitor BP at home and if SBP sustains >140, can increase 
amlodipine to 10 mg daily
2. Continue to follow-up cough with PCP
 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 12.5 mg PO DAILY 
2. amLODIPine 5 mg PO DAILY 
3. Losartan Potassium 100 mg PO DAILY 
4. Aluminum-Magnesium Hydrox.-Simethicone 10 mL PO QID:PRN 
indigestion 
5. Aspirin EC 81 mg PO DAILY 
6. Atorvastatin 40 mg PO QPM 
7. GuaiFENesin-CODEINE Phosphate ___ mL PO Q6H:PRN throat pain 
8. Omeprazole 20 mg PO DAILY 
9. Benzonatate 200 mg PO TID cough 
10. Famotidine 20 mg PO BID 
11. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 

 
Discharge Medications:
1.  Aluminum-Magnesium Hydrox.-Simethicone 10 mL PO QID:PRN 
indigestion  
2.  amLODIPine 5 mg PO DAILY  
3.  Aspirin EC 81 mg PO DAILY  
4.  Atorvastatin 40 mg PO QPM  
5.  Benzonatate 200 mg PO TID cough  
6.  Famotidine 20 mg PO BID  
7.  GuaiFENesin-CODEINE Phosphate ___ mL PO Q6H:PRN throat pain 
 
8.  Hydrochlorothiazide 12.5 mg PO DAILY  
9.  Losartan Potassium 100 mg PO DAILY  
10.  MetFORMIN XR (Glucophage XR) 500 mg PO DAILY  
11.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
HTN Urgency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized for symptoms of Increased right sided 
numbness, Right facial droop and headache. Your symptoms were 
initially suspected to be from a possible stroke or from 
elevated blood pressure. You underwent a MRI scan of brain which 
did not show any evidence of new stroke. We suspect that your 
symptoms are form recrudescence of your previous symptoms in the 
setting of elevated blood pressure.

You were also having headache which is likely from elevated 
Blood pressure and from neck muscle pain. You were given your 
home blood pressure meds and pain medication with improvement.

We recommend you continue medications as stated on the list.

Please follow up with Primary care physician tomorrow as 
scheduled.

Yours sincerely,
___ Neurology team

 
Followup Instructions:
___